US05374641
Nickel chloride (20 mg) was suspended in 1 ml of methanol and 9 ml of methylene chloride, followed by gradual addition of 120 mg of sodium borohydride at 0° C. At the same temperature, ethyl 4-[2-(4-chlorobenzenesulfonamido)-2(3-pyridyl)ethyl]cinnamate dissolved in 0.5 ml of methanol and 4.5 ml of methylene chloride was added and stirred at room temperature for eight hours. To the reaction mixture was added dropwise 2N hydrogen chloride at 0° C., until the mixture became acidic. The organic phase was separated and extracted with methanol-methylene chloride (5:95 v/v). The organic phases were combined and washed in saturated aqueous sodium chloride solution, followed by drying over magnesium sulfate. Then, the solvent was evaporated under reduced pressure. The residue obtained was subjected to chromatography on a silica gel column which was eluted with methanol-methylene chloride (5:95 v/v) for purification, followed by recrystallization in methylene chloride-hexane, to produce 70 mg of ethyl 3-(4-[2-(4-chlorobenzenesulfonamido)-2(3-pyridyl)ethyl]phenyl}propionate. The spectrometric data thereof supports the structure of [24] as follows.

reactant | sodium borohydride | 120 mg | [BH4-].[Na+]
reactant | ethyl 4-[2-(4-chlorobenzenesulfonamido)-2(3-pyridyl)ethyl]cinnamate | ClC1=CC=C(C=C1)S(=O)(=O)NC(CC1=CC=C(C=CC(=O)OCC)C=C1)C=1C=NC=CC1 | C24H23ClN2O4S
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | methanol | 1 ml | CO | CH4O
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 0.5 ml | CO | CH4O
catalyst | Nickel chloride | 20 mg | [Ni](Cl)Cl
solvent | methylene chloride | 4.5 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-(4-[2-(4-chlorobenzenesulfonamido)-2(3-pyridyl)ethyl]phenyl}propionate | 70 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(CC1=CC=C(C=C1)CCC(=O)OCC)C=1C=NC=CC1 | C24H25ClN2O4S
